US04496560
Thien-2-yl-acetyl chloride (1.4 cc) is added to a solution of 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-5-thia-1-azabicyclo [4.2.0]oct-2-ene (6.36 g) in dry tetrahydrofuran (200 cc), and triethylamine (1.58 cc) is then added. The mixture is stirred at 20° C. for 1 hour 20 minutes and is then poured into a 65:35 (by volume) mixture of ethyl acetate and a saturated sodium bicarbonate solution. The organic phase is decanted and then washed successively with distilled water (200 cc), and a saturated sodium chloride solution (200 cc) and dried over anhydrous sodium sulphate. The drying agent is filtered off and washed with ethyl acetate (10 cc) and the filtrate is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 30° C. The residue is purified by chromatography on a column (height: 24 cm, diameter: 3 cm) of silica gel (0.05-0.2 mm), elution being carried out with ethyl acetate (2.5 liters), and 60 cc fractions being collected. Fractions 12 to 35 are combined and concentrated to dryness under reduced pressure (30 mm Hg; B 4 kPa) at 30° C. to give 2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (4.45 g) in the form of a yellow froth.

reactant | Thien-2-yl-acetyl chloride | 1.4 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 7-amino-2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-5-thia-1-azabicyclo [4.2.0]oct-2-ene | 6.36 g | NC1C2SCC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CN=C(S1)CC=1C=NC=CC1 | C29H24N4O3S2
reactant | triethylamine | 1.58 cc | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 cc | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzhydryloxycarbonyl-8-oxo-3-[2-(pyrid-3-ylmethyl)-thiazol-5-yl]-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 4.45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)CC=1C=NC=CC1)NC(CC=1SC=CC1)=O)=O | C35H28N4O4S3
